US07795262B2
Step 2. Preparation of 2-bromo-6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylic acid tert-butyl ester
To a solution of 6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylic acid tert-butyl ester (240 mg, 1.0 mmol) in acetonitrile (5 ml) cooled to 0° C. is added NBS (183 mg, 1.03 mmol, 1.03 eq.). The mixture is stirred at rt overnight. The organic phase is collected, washed with water (10 ml) and brine (10 ml), dried over sodium sulfate, and concentrated. The residue is purified by silica gel chromatography (hexane/EtOAc 10:1) to give the title compound. MS (+VE) m/z 318.1 (M++1).

reactant | 6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | 1.0 mmol, 240 mg | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC=C2 | C12H17NO2S
reactant | NBS | 1.03 mmol, 183 mg, 1.03 eq. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-bromo-6,7-dihydro-4H-thieno[3,2-c]pyridine-5-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=C(CC1)SC(=C2)Br | C12H16BrNO2S
